US08084614B2
A mixture of 3-bromo-4-chloro-N-(2-hydroxy-6-methyl-phenyl)-benzamide (11.3 g, 33.2 mmol), t-butyl 4-bromobutyrate (8.2 g, 36.6 mmol) and K2CO3 (9.2 g, 66.5 mmol) was heated in DMF (100 mL) at 60° C. for 14 hrs. The mixture was then concentrated to remove DMF and partitioned between ethyl acetate and water. The organic layer was separated and washed with water and brine, dried over MgSO4, then purified by silica gel column chromatography eluting with ethyl acetate/hexane (1/4) to yield a red solid, which was further washed with ether to produce a white powder as 4-[2-(3-bromo-4-chloro-benzoylamino)-3-methyl-phenoxy]-butyric acid tert-butyl ester (10.2 g). MS [M−(t-Bu)+H]+: 425.8/427.8; tR=2.79 min. (method 1)

reactant | 3-bromo-4-chloro-N-(2-hydroxy-6-methyl-phenyl)-benzamide | 33.2 mmol, 11.3 g | BrC=1C=C(C(=O)NC2=C(C=CC=C2C)O)C=CC1Cl | C14H11BrClNO2
reactant | t-butyl 4-bromobutyrate | 36.6 mmol, 8.2 g | BrCCCC(=O)OC(C)(C)C | C8H15BrO2
reactant | K2CO3 | 66.5 mmol, 9.2 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 4-[2-(3-bromo-4-chloro-benzoylamino)-3-methyl-phenoxy]-butyric acid tert-butyl ester | 10.2 g | C(C)(C)(C)OC(CCCOC1=C(C(=CC=C1)C)NC(C1=CC(=C(C=C1)Cl)Br)=O)=O | C22H25BrClNO4
